US05455253
2-Ethyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 1-(3-nitrophenyl)-1-penten-3-one (2.42 g), 1,3-cyclohexanedione (1.36 g), ammonium acetate (2.00 g) and ethanol (70 mL) was heated at reflux for 7.5 hours. Removal of solvent, chromatography (ethyl acetate/hexane, 2:1 and methylene chloride/acetonitrile, 9:1), trituration with hot diethyl ether and recrystallization from ethyl acetate provided the title compound (1.29 g) as a yellow solid; mp 182°-184° C.; NMR: 1.03 (t,3, J=7.4, CH3), 1.70-1.95 (m,2, CH2), 2.07 (q,2, J=7.5, CH2), 2.17 (m,2, CH2), 2.48 (m,2, CH2), 4.59 (d,1, J=4.8, CH), 4.66 (dd, 1, J=4.8, 0.9, CH), 7.53 (m,1, Ar), 7.64 (m,1, Ar), 7.98 (m,2, Ar), 8.55 (s,1, NH). MS: m/z= 298(M). Analysis for C17H18N2O3 : Calculated: C., 68.44; H, 6.08; N, 9.39; Found: C, 68.43; H, 6.09; N, 9.39.

reactant | 1-(3-nitrophenyl)-1-penten-3-one | 2.42 g | [N+](=O)([O-])C=1C=C(C=CC1)C=CC(CC)=O | C11H11NO3
reactant | 1,3-cyclohexanedione | 1.36 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 2.00 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 2-Ethyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.29 g | C(C)C=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H18N2O3
